US04092311
A 24.9 g. portion of 4,5-dihydro-5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone (prepared as described in Example 9 of U.S. Pat. No. 3,822,260) is dissolved in 200 ml. of warm stirred acetic acid. A 19.2 g. (6.2 ml.) portion of bromine, dissolved in 50 ml. of acetic acid is added dropwise over a 15 minute period. After an additional 20 minutes of warming to expel the HBr, the reaction mixture is poured into crushed ice. The resulting solid is recovered by filtration and washed with large amounts of water. The solid is dried yielding 5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone as a cream colored solid.

reactant | 4,5-dihydro-5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone | CC1CC(NN=C1C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H11N3O3
reactant | bromine | BrBr | Br2
reactant | HBr | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-methyl-6-(m-nitrophenyl)-3(2H)-pyridazinone | CC1=CC(NN=C1C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H9N3O3
